US07335674B2
A solution of 1.22 g of cerium ammonium nitrate (2.23 mmol, 2.1 equivalents) in 8 ml of water is added to 343 mg (1.06 mmol) of 2-(2,6-difluorophenyl)-5,7-dimethoxy-1,3-benzothiazol-4-amine in solution in 25 ml of ethyl acetate. The reaction mixture is maintained under vigorous stirring at ambient temperature for 1 hour 30 minutes then the organic phase is separated and washed with 3 times 20 ml of water, then dried over magnesium sulphate, filtered and the solvent is evaporated off under reduced pressure. The residue is purified by chromatography on a silica column (eluent: ethyl acetate/heptane: 3/7) and 280 mg (yield=86%) of 2-(2,6-difluorophenyl)-5-methoxy-1,3-benzothiazole-4,7-dione is obtained in the form of yellow powder.

reactant | cerium ammonium nitrate | 2.23 mmol, 1.22 g, 2.1 equivalents | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | 2-(2,6-difluorophenyl)-5,7-dimethoxy-1,3-benzothiazol-4-amine | 1.06 mmol, 343 mg | FC1=C(C(=CC=C1)F)C=1SC=2C(N1)=C(C(=CC2OC)OC)N | C15H12F2N2O2S
solvent | water | 8 ml | O | H2O
solvent | ethyl acetate | 25 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2,6-difluorophenyl)-5-methoxy-1,3-benzothiazole-4,7-dione | 280 mg, yield=86% | FC1=C(C(=CC=C1)F)C=1SC2=C(N1)C(C(=CC2=O)OC)=O | C14H7F2NO3S
